US04868184
Preparation of 1-[3-[bis(4-fluorophenyl)methoxy]propyl]-4-(diphenylmethyl)piperazine
A solution containing 10.4 g of 1-[3-[bis(4-fluorophenyl)methoxy]propyl]piperazine, 4.6 ml of triethylamine and 8.1 g of benzhydryl bromide in 100 ml of anhydrous xylene is refluxed for 8 hours and then cooled down. The mixture is washedwith water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The resiude is recrystallized from n-hexane to give the aimed product, m.p.: 78°-79° C.

reactant | 1-[3-[bis(4-fluorophenyl)methoxy]propyl]piperazine | 10.4 g | FC1=CC=C(C=C1)C(OCCCN1CCNCC1)C1=CC=C(C=C1)F | C20H24F2N2O
reactant | triethylamine | 4.6 ml | C(C)N(CC)CC | C6H15N
reactant | benzhydryl bromide | 8.1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C13H11Br
reactant | water | O | H2O
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-[3-[bis(4-fluorophenyl)methoxy]propyl]-4-(diphenylmethyl)piperazine | FC1=CC=C(C=C1)C(OCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)F | C33H34F2N2O
